US08895745B2
1-(3-{7-[3-(1-Acetyl-piperidin-4-yloxy)-phenyl]-imidazo[1,2-a]pyridine-3-yl}-phenyl)-3-(2,2,2-trifluoro-ethyl)-urea
To a solution of 1-(3-{7-[3-(Piperidin-4-yloxy)-phenyl]-imidazo[1,2-a]pyridine-3-yl}-phenyl)-3-(2,2,2-trifluoro-ethyl)-urea (50 mg, 98 μmol in DMF(10 ml) was added acetyl chloride (6.3 μl, 82 μmol) and Et3N (14 μl). The reaction was stirred at room temperature for 3 h, then partitioned between EtOAc and H2O. The aqueous layer was again extracted with EtOAc, the organics combined, dried (MgSO4), filtered and the solvent removed in vacuo. The residue was purified by preparative HPLC to give the title compound (17.5 mg).

reactant | 1-(3-{7-[3-(Piperidin-4-yloxy)-phenyl]-imidazo[1,2-a]pyridine-3-yl}-phenyl)-3-(2,2,2-trifluoro-ethyl)-urea | N1CCC(CC1)OC=1C=C(C=CC1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C27H26F3N5O2
reactant | acetyl chloride | 82 μmol, 6.3 μl | C(C)(=O)Cl | C2H3ClO
reactant | Et3N | 14 μl | CCN(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(3-{7-[3-(1-Acetyl-piperidin-4-yloxy)-phenyl]-imidazo[1,2-a]pyridine-3-yl}-phenyl)-3-(2,2,2-trifluoro-ethyl)-urea | 17.5 mg | C(C)(=O)N1CCC(CC1)OC=1C=C(C=CC1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C29H28F3N5O3
